data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1156,1257,[CH3:8][O:9][C:10](=[O:11])[C:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)=[N+:19]([CH3:20])[C-:21]([CH3:22])[C:23]([CH3:24])=[O:25].[CH:1]1=[CH:2][CH:3]2[CH2:4][CH2:5][CH:6]1[CH2:7]2>>[CH:1]12[CH:2]([CH:3]3[CH2:4][CH2:5][CH:6]1[CH2:7]3)[C:21]([CH3:22])([C:23]([CH3:24])=[O:25])[N:19]([CH3:20])[C:12]2([C:10]([O:9][CH3:8])=[O:11])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,26.878222218215534,-30.14596978517908
188,205,[CH3:1][O:2][C:3]#[C:4][Cl:5].[CH3:6][C:7](=[O:8])[C:9]#[N+:10][C-:11]([C:12]([CH3:13])=[O:14])[C:15]([CH3:16])=[O:17]>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[C:9]([C:7]([CH3:6])=[O:8])=[N:10][C:11]1([C:12]([CH3:13])=[O:14])[C:15]([CH3:16])=[O:17],water,298.15,10.992293021137344,-65.76347851397819
50,61,[CH3:4][O:5][C:6](=[O:7])[C-:8]([CH3:9])[O+:10]=[C:11]([CH3:12])[C:13]([CH3:14])=[O:15].[CH:1]#[C:2][CH3:3]>>[CH:1]1=[C:2]([CH3:3])[C:11]([CH3:12])([C:13]([CH3:14])=[O:15])[O:10][C:8]1([C:6]([O:5][CH3:4])=[O:7])[CH3:9],water,298.15,13.28564364576996,-64.93612900094459
788,853,[CH3:13][C:14](=[O:15])[C-:16]([C:17]#[N:18])[N+:19]([CH3:20])=[C:21]([CH3:22])[CH3:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:21]([CH3:22])([CH3:23])[N:19]([CH3:20])[C:16]2([C:14]([CH3:13])=[O:15])[C:17]#[N:18],water,298.15,35.35416325722357,-13.607578278078028
494,540,[CH3:13][C:14](=[O:15])[C-:16]([CH3:17])[NH+:18]=[CH:19][C:20]#[N:21].[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:16]([C:14]([CH3:13])=[O:15])([CH3:17])[NH:18][CH:19]2[C:20]#[N:21],water,298.15,27.76389020954387,-18.177760332934312
2982,3334,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][c-:8]1[o+:9][n:10][o:11][c:12]1=[O:13]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:8]2([CH3:7])[O:9][N:10]1[O:11][C:12]2=[O:13],water,298.15,18.48317772139989,-13.257029349569857
3711,4238,[CH2-:10][O+:11]=[C:12]([C:13]([CH3:14])=[O:15])[C:16](=[O:17])[NH:18][CH3:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:12]([C:13]([CH3:14])=[O:15])([C:16](=[O:17])[NH:18][CH3:19])[O:11][CH2:10]1,water,298.15,10.310890969870174,-48.51495417587828
2527,2806,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([F:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][NH:21][C:22](=[O:23])[c-:24]1[c:25](=[O:26])[o:27][c:28]([C:29](=[O:30])[O:31][CH3:32])[n+:33]1[CH3:34]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([F:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:24]1([C:22]([NH:21][CH3:20])=[O:23])[C:25](=[O:26])[O:27][C:28]2([C:29](=[O:30])[O:31][CH3:32])[N:33]1[CH3:34],water,298.15,24.0701043044794,-4.396821416223056
3978,4551,[CH3:9][C:10]([CH3:11])=[N+:12]([CH3:13])[C-:14]([CH3:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:14]([CH3:15])([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[N:12]([CH3:13])[C:10]1([CH3:9])[CH3:11],water,298.15,24.442284909104423,-29.257373644599124
397,431,[CH3:11][C:12](=[O:13])[C:14]([CH3:15])=[O+:16][C-:17]([CH3:18])[C:19]#[N:20].[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([CH3:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:14]([C:12]([CH3:11])=[O:13])([CH3:15])[O:16][C:17]2([CH3:18])[C:19]#[N:20],water,298.15,11.968089464085589,-38.832925687250594
2205,2444,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([C:17](=[O:18])[NH:19][CH3:20])[N+:21]([CH3:22])=[C:23]([C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:23]([C:24]([CH3:25])=[O:26])([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[N:21]([CH3:22])[C:16]3([C:14]([NH:13][CH3:12])=[O:15])[C:17](=[O:18])[NH:19][CH3:20],water,298.15,28.86185273020191,-37.86826687371335
4345,4966,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([N+:16]#[C:17][C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:20](=[O:21])[O:22][CH3:23])[N:16]=[C:17]2[C:18]#[N:19],water,298.15,15.184540845056624,-38.711983098751006
